US09388166B2
A solution of 3-nitroaniline (5.00 g, 36.2 mmol), di-tert-butyl dicarbonate (7.90 g, 36.2 mmol) and pyridine-4-ylamine (3.75 g, 39.8 mmol) in THF (50 mL) was stirred at 25° C. for 3 h. The reaction mixture was concentrated in vacuo, then added ethyl acetate (50 mL). The organic solution was washed three times with water and once with brine. The organic layer was then dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (80/20 hexanes/ethyl acetate) afforded (3-nitro-phenyl)-carbamic acid tert-butyl ester (7.00 g, 81%) as an oil.

reactant | 3-nitroaniline | 36.2 mmol, 5.00 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | di-tert-butyl dicarbonate | 36.2 mmol, 7.90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine-4-ylamine | 39.8 mmol, 3.75 g | N1=CC=C(C=C1)N | C5H6N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3-nitro-phenyl)-carbamic acid tert-butyl ester | 7.00 g, 81% | C(C)(C)(C)OC(NC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H14N2O4
